US08809530B1
To a mixture of 2H-benzo[b][1,4]thiazin-3(4H)-one (1.0 g, 6.1 mmole) and 1-(bromomethyl)-2- fluorobenzene (0.76 mL, 1.05 equiv) in DMF (10 mL) was added t-BuOK (0.75 g) at 0 ° C. The reaction mixture was warmed to room temperature and stirred overnight. Water was added and the resulted solid was filtrated, rinsed with water, and dried under vacuum to provide 4-(2-fluorobenzyl)-2H-benzo[b][1,4]thiazin-3(4H)-one (1.51 g, 91%).

reactant | 2H-benzo[b][1,4]thiazin-3(4H)-one | 6.1 mmole, 1.0 g | S1C2=C(NC(C1)=O)C=CC=C2 | C8H7NOS
reactant | 1-(bromomethyl)-2- fluorobenzene | 0.76 mL, 1.05 equiv | BrCC1=C(C=CC=C1)F | C7H6BrF
reactant | t-BuOK | 0.75 g | CC(C)(C)[O-].[K+]
reactant | Water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-(2-fluorobenzyl)-2H-benzo[b][1,4]thiazin-3(4H)-one | 1.51 g, 91% | FC1=C(CN2C3=C(SCC2=O)C=CC=C3)C=CC=C1 | C15H12FNOS
